US08609680B2
Methyl(4-cyclopropylphenyl)acetate (710 mg, 3.73 mmol) was dissolved in 5 mL THF, 5 mL MeOH, and aqueous 1N NaOH (7.46 mmol) and the resulting mixture was heated at 45° C. overnight. After cooling to ambient temperature, the reaction was concentrated in vacuo and the residue was diluted with water (50 mL). The aqueous material was acidified with 1N HCl to pH˜3. A light brown precipitate formed which was collected by filtration and dried in a vacuum oven for 3 days to give (4-cyclopropylphenyl)acetic acid (SM-1ag, 395 mg, 60%). MS (ES−) 175.2 (M−H). 1H NMR (DMSO-d6) δ 0.57-0.61 (m, 2H), 0.86-0.91 (m, 2H), 1.81-1.88 (m, 1H), 3.45 (s, 2H), 6.97 (d, 2H), 7.08 (d, 2H), 12.20 (br s, 1H).

reactant | Methyl(4-cyclopropylphenyl)acetate | 3.73 mmol, 710 mg | COC(CC1=CC=C(C=C1)C1CC1)=O | C12H14O2
reactant | MeOH | 5 mL | CO | CH4O
reactant | NaOH | 7.46 mmol, 1N | [OH-].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4-cyclopropylphenyl)acetic acid | 395 mg, 60% | C1(CC1)C1=CC=C(C=C1)CC(=O)O | C11H12O2
